US08039463B2
Ammonium chloride (325 mg, 6.0 mmol) in water (10 mL) was added to a solution of 2-benzyloxy-5-nitro-pyridine (350 mg, 1.5 mmol) in THF (15 mL) and the resulting mixture stirred at 75° C. for 30 minutes. Iron powder (340 mg, 6 mmol) was then added portion wise and the mixture stirred for 5 hours at 75° C. The reaction mixture was filtered over celite. The filtrate was basified with sodium bicarbonate solution and the product extracted with ethyl acetate. The organics were washed with brine solution, dried over Na2SO4 and concentrated to afford 320 mg (100%) of 6-benzyloxy-pyridin-3-ylamine.

reactant | Ammonium chloride | 6.0 mmol, 325 mg | [Cl-].[NH4+]
reactant | 2-benzyloxy-5-nitro-pyridine | 1.5 mmol, 350 mg | C(C1=CC=CC=C1)OC1=NC=C(C=C1)[N+](=O)[O-] | C12H10N2O3
solvent | water | 10 mL | O | H2O
solvent | THF | 15 mL | C1CCOC1 | C4H8O
catalyst | Iron | 6 mmol, 340 mg | [Fe] | Fe
product | 6-benzyloxy-pyridin-3-ylamine | 320 mg, 100% | C(C1=CC=CC=C1)OC1=CC=C(C=N1)N | C12H12N2O
